US06489314B1
(b) 2-(2,2,2-trichloroethoxycarbonyloxymethyl)thiazole-4-carboxaldehyde
To a solution of ethyl 2-(2,2,2-trichloroethoxycarbonyloxymethyl)thiazole-4-carboxylate (23 g) in CH2Cl2 (200 mL) is added a solution of diisobutylaluminum hydride (1.0 M in CH2Cl2, 120 mL) at −78° C. over 30 minutes. The resulting mixture is kept at −78 ° C. for 10 hours. The excess hydride is quenched with acetic acid (5 mL) and the reaction is warmed to ambient temperature, and the mixture is stirred with sat. aq. Rochelle's salt (150 mL) until the suspension clears. The organic layer is washed with 10% aq NaHCO3 and brine, dried (Na2SO4), filtered, and concentrated. Purification by column chromatography on SiO2 (toluene/ethyl acetate, 6:1) affords the product as a light yellow syrup.

reactant | ethyl 2-(2,2,2-trichloroethoxycarbonyloxymethyl)thiazole-4-carboxylate | 23 g | ClC(COC(=O)OCC=1SC=C(N1)C(=O)OCC)(Cl)Cl | C10H10Cl3NO5S
reactant | diisobutylaluminum hydride | 1.0 M, 120 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,2,2-trichloroethoxycarbonyloxymethyl)thiazole-4-carboxaldehyde | ClC(COC(=O)OCC=1SC=C(N1)C=O)(Cl)Cl | C8H6Cl3NO4S
